US06306818B1
(E)-3-Phenylethyloxy-acrylic acid ethyl ester
The reaction was performed in standard glassware under an atmosphere of N2. To 100 ml of diethylether were added 9.8 g (0.1 mol) of propiolic acid ethyl ester, 12.2 g (0.1 mol) phenylethanol and 10.1 g (0.1 mol) of N-methylmorpholine. This solution was kept without stirring at room temperature for 24 hours. The mixture was evaporated under vacuum and the residue purified by bulb to bulb distillation (bp: 70-75° C., 0.006 mbar) to yield 15.7 g (88%) of an oil.

reactant | propiolic acid ethyl ester | 0.1 mol, 9.8 g | C(C)OC(C#C)=O | C5H6O2
reactant | phenylethanol | 0.1 mol, 12.2 g | C=1C=CC(=CC1)CCO | C8H10O
reactant | N-methylmorpholine | 0.1 mol, 10.1 g | CN1CCOCC1 | C5H11NO
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
product | (E)-3-Phenylethyloxy-acrylic acid ethyl ester | 15.7 g, 88% | C(C)OC(\C=C\OCCC1=CC=CC=C1)=O | C13H16O3
